US06300352B1
a) 2-(3-Bromophenyl)-N-methyl-acetamide
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide 4-hydrochloride (8.88 g), 4-dimethylaminopyridine (5.67 g) and a 2M solution of methylamine in tetrahydrofuran (23 ml) were added to a solution of 4-bromophenylacetic acid (5.0 g) in dichloromethane (100 ml). The mixture was stirred overnight at room temperature. The reaction mixture was washed with 2M hydrochloric acid (3×100 ml), the organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated. The sub-title compound was obtained as a solid (4.74 g) after recrystallisation from 1% hexane in ethyl acetate.

reactant | methylamine | CN | CH5N
reactant | 4-bromophenylacetic acid | 5.0 g | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
reactant | tetrahydrofuran | 23 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 5.67 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-(3-Bromophenyl)-N-methyl-acetamide | BrC=1C=C(C=CC1)CC(=O)NC | C9H10BrNO
